US05079244
12.8 g of 1-amino-2,6-dimethylpiperidine, 4.9 g of sodium cyanide and 15.0 g of benzyloxyacetaldehyde are reacted analogously to 8a). 23.3 g of 3-benzyloxy-2-((2,6-dimethylpiperidino)amino)propionitrile are obtained, which are employed in the following step without further purification.

reactant | 1-amino-2,6-dimethylpiperidine | 12.8 g | NN1C(CCCC1C)C | C7H16N2
reactant | sodium cyanide | 4.9 g | [C-]#N.[Na+]
reactant | benzyloxyacetaldehyde | 15.0 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
product | 3-benzyloxy-2-((2,6-dimethylpiperidino)amino)propionitrile | 23.3 g | C(C1=CC=CC=C1)OCC(C#N)NN1C(CCCC1C)C | C17H25N3O
